US04515980
N-(2-Methoxyphenyl)isatoic anhydride (1 g, 0.00369 mole), 4 ml (0.00532 mole) of 1.33M diethylzinc in 4 ml of tetrahydrofuran, and 15 ml of tetrahydrofuran were combined at 0°-5° C. and then stirred at room temperature for two days. The reaction mixture was poured into water and extracted with ether. The ether extracts were washed with 20 ml of 1N potassium hydroxide, then dried over anhydrous magnesium sulfate and concentrated. The residue (1.12 g) was flash chromatographed on silica gel using 5% ethyl acetate/95% hexane as eluant to afford ethyl 2-(2-methoxyphenylamino)benzoate as a yellow viscous liquid, b.p. 284°-286° C. (760 mm).

reactant | N-(2-Methoxyphenyl)isatoic anhydride | 0.00369 mole, 1 g | COC1=C(C=CC=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO4
reactant | diethylzinc | 0.00532 mole, 1.33M, 4 ml | C(C)[Zn]CC
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl 2-(2-methoxyphenylamino)benzoate | COC1=C(C=CC=C1)NC1=C(C(=O)OCC)C=CC=C1 | C16H17NO3
